US07563787B2
N4-((furan-2-yl)methyl)-N6-(5methyl-1H-pyrazol-3-yl)-2-styrylpyrimidine-4,6-diamine
Example 162 was synthesized via Scheme 6 according to the general scheme provided above with the appropriate starting materials 3-(4-methoxyphenyl)acrylonitrile, 5-methyl-1H-pyrazole-3-amine, and (furan-2-yl)methanamine. Structure of the target was confirmed by 1H-NMR. The 1H-NMR is attached.

reactant | 3-(4-methoxyphenyl)acrylonitrile | COC1=CC=C(C=C1)C=CC#N | C10H9NO
reactant | 5-methyl-1H-pyrazole-3-amine | CC1=CC(=NN1)N | C4H7N3
reactant | (furan-2-yl)methanamine | O1C(=CC=C1)CN | C5H7NO
product | N4-((furan-2-yl)methyl)-N6-(5methyl-1H-pyrazol-3-yl)-2-styrylpyrimidine-4,6-diamine | O1C(=CC=C1)CNC1=NC(=NC(=C1)NC1=NNC(=C1)C)C=CC1=CC=CC=C1 | C21H20N6O
